US07910592B2
Sodium borohydride (36.3 mg, 0.959 mmol) was added to a stirred solution of 3-formyl-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (98.5 mg, 0.320 mmol) in EtOH (5 mL) at room temperature. The reaction was stirred for 112 h at room temperature. The reaction mixture was diluted with water (20 mL) washed with brine and dried (Na2SO4) then concentrated in vacuo to afford the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-30% EtOAc in hexanes gradient) to afford 3-(hydroxymethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate. Rf=0.49 (20% EtOAc/hexanes). 1H NMR (500 MHz, CDCl3): δ 7.25 (s, 1H); 6.95 (s, 1H); 4.69 (d, J=4.9 Hz, 2H); 2.76 (br s, 4H); 2.25 (t, J=5.4 Hz, 1H); 1.80-1.77 (m, 4H).

reactant | Sodium borohydride | 0.959 mmol, 36.3 mg | [BH4-].[Na+]
reactant | 3-formyl-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.320 mmol, 98.5 mg | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1C=O)(F)F | C12H11F3O4S
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | 20 mL | O | H2O
product | 3-(hydroxymethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1CO)(F)F | C12H13F3O4S
